US07456164B2
2-Phenyl-N-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-acetamide
To a stirred solution of {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine (200 mg, 0.63 mmol) and triethylamine (93 μL, 0.66 mmol) in anhydrous dichloromethane (8 mL) under nitrogen atmosphere at 0° C. was added dropwise a solution of phenylacetyl chloride (93 μL, 0.66 mmol) in anhydrous dichloromethane (2 mL). After stirring for 3 h at 0° C., the reaction mixture was quenched with a saturated aqueous solution of NaHCO3. The organic layer was separated and washed with water then dried over magnesium sulfate, filtered, concentrated under reduced pressure and purified by column chromatography on silica gel eluting with DCM:MeOH (98:2) to give the title compound (34 mg, 12%). 1H NMR (400 MHz, CDCl3) δ7.32-7.31 (m, 3H), 7.12-7.10 (m, 2H), 6.89-6.87 (d, 2H), 6.76-6.74 (d, 2H), 4.91 (t, 1H), 4.02 (t, 2H), 3.79-3.74 (m, 2H), 3.53-3.51 (m, 2H), 3.47 (s, 2H), 3.37-3.35 (d, 2H), 2.62 (m, 6H), 2.08-2.06 (m, 2H), 1.93-1.85 (m, 6H), 1.76-1.74 (m, 2H).

reactant | {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine | 0.63 mmol, 200 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN | C19H30N2O2
reactant | triethylamine | 0.66 mmol, 93 μL | C(C)N(CC)CC | C6H15N
reactant | phenylacetyl chloride | 0.66 mmol, 93 μL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-Phenyl-N-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-acetamide | 34 mg, 12% | C1(=CC=CC=C1)CC(=O)NCC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C27H36N2O3
